US07713994B2
N1-[2-Hydroxy-4-({[(Z)-(6-iodo-1,3-dioxo-2,3-dihydroisoquinolin-4(1H)-ylidene)methyl]amino}methyl)phenyl]-N2,N2-dimethylglycinamide
4-[(4-Amino-3-hydroxy-benzylamino)-methylene]-6-iodo-4H-isoquinoline-1,3-dione (89 mg, 0.20 mmol) is dissolved in N,N-dimethylformamide (3.56 mL), followed by addition of triethylamine (0.236 mL, 1.69 mmol), dimethylamino-acetic acid (30.58 mg, 0.30 mmol), 1-[3-(dimethylamino)propyl]-3-ethylcarbodimide hydrochloride (42.6 mg, 0.22 mmol) and 1-hydroxybenzotriazole (13.8 mg, 0.10 mmol). It is stirred at room temperature overnight. It is then evaporated to dryness, and the residue is washed with ether, and then acetonitrile to yield 21 mg (20%) of the title compound as a solid. MS (ESI) m/z 521 (M+H)+1

reactant | 4-[(4-Amino-3-hydroxy-benzylamino)-methylene]-6-iodo-4H-isoquinoline-1,3-dione | 0.20 mmol, 89 mg | NC1=C(C=C(CNC=C2C(NC(C3=CC=C(C=C23)I)=O)=O)C=C1)O | C17H14IN3O3
reactant | triethylamine | 1.69 mmol, 0.236 mL | C(C)N(CC)CC | C6H15N
reactant | dimethylamino-acetic acid | 0.30 mmol, 30.58 mg | CN(C)CC(=O)O | C4H9NO2
reactant | 1-[3-(dimethylamino)propyl]-3-ethylcarbodimide hydrochloride | 0.22 mmol, 42.6 mg | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole | 0.10 mmol, 13.8 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
solvent | N,N-dimethylformamide | 3.56 mL | CN(C=O)C | C3H7NO
product | N1-[2-Hydroxy-4-({[(Z)-(6-iodo-1,3-dioxo-2,3-dihydroisoquinolin-4(1H)-ylidene)methyl]amino}methyl)phenyl]-N2,N2-dimethylglycinamide | 21 mg, 20% | OC1=C(C=CC(=C1)CN\C=C\1/C(NC(C2=CC=C(C=C12)I)=O)=O)NC(CN(C)C)=O | C21H21IN4O4
